US05412097
Step 1: Preparation of 6-amino-7-methyl-2-propyl-3-[[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl]-3H-imidazo[4,5-b]pyridine
A mixture of 7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine (180 mg) in 10 mL of MeOH and 1 mL of conc aqueous HCl was heated to 50° C. for 30 h. The MeOH was removed in vacuo and 100 mL of CH2Cl2 was added. The mixture was washed with saturated aqueous NaHC03 (2×30 mL), dried (Na2SO4), and concentrated to give the title compound as a foam.

reactant | 7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl-6-[(1-oxobutyl)amino]-3H-imidazo[4,5-b]pyridine | 180 mg | CC1=C2C(=NC=C1NC(CCC)=O)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N | C27H31N5O3S
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | 1 mL | Cl | ClH
product | 6-amino-7-methyl-2-propyl-3-[[2'-(aminosulfonyl)[1,1']biphenyl-4-yl]methyl]-3H-imidazo[4,5-b]pyridine | NC=1C(=C2C(=NC1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C23H25N5O2S
